US08202873B2
Add sodium hydride (173 mg, 4.33 mmol) to a solution of 1H-1,2,3-triazole (308 mg, 4.33 mmol) in DMF (3 mL). Maintain stirring under nitrogen for 1 hr then add sodium iodide (162 mg, 1.08 mmol) and a solution of 3′-(4-Chloromethyl-phenyl)-4-(3-methyl-1-phenyl-1H-pyrazol-4-ylmethyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl (495 mg, 1.08 mmol) in DMF (8 mL). Maintain stirring under nitrogen for 20 hr. Quench by adding water (10 mL), wash with DCM (3×10 mL) and discard the aq. phase. Concentrate to dryness to give a mixture of 4-(3-Methyl-1-phenyl-1H-pyrazol-4-ylmethyl)-3′-(4-[1,2,3]triazol-1-ylmethyl-phenyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl and 4-(3-Methyl-1-phenyl-1H-pyrazol-4-ylmethyl)-3′-(4-[1,2,3]triazol-2-ylmethyl-phenyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl. Purify first by preparative HPLC then by SCX-2® ion exchange chromatography, eluting with 2 M NH3 in MeOH. to give 4-(3-methyl-1-phenyl-1H-pyrazol-4-ylmethyl)-3′-(4-[1,2,3]triazol-2-ylmethyl-phenyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl (98 mg). MS (ES): m/z=492 [M+H]+ 2 min.

reactant | sodium hydride | 4.33 mmol, 173 mg | [H-].[Na+]
reactant | 1H-1,2,3-triazole | 4.33 mmol, 308 mg | N1N=NC=C1 | C2H3N3
reactant | sodium iodide | 1.08 mmol, 162 mg | [I-].[Na+]
reactant | 3′-(4-Chloromethyl-phenyl)-4-(3-methyl-1-phenyl-1H-pyrazol-4-ylmethyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl | 1.08 mmol, 495 mg | ClCC1=CC=C(C=C1)C=1C(=NC=CN1)N1CCN(CC1)CC=1C(=NN(C1)C1=CC=CC=C1)C | C26H27ClN6
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
solvent | DMF | 8 mL | CN(C)C=O | C3H7NO
product | 4-(3-methyl-1-phenyl-1H-pyrazol-4-ylmethyl)-3′-(4-[1,2,3]triazol-2-ylmethyl-phenyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl | 98 mg | CC1=NN(C=C1CN1CCN(CC1)C1=NC=CN=C1C1=CC=C(C=C1)CN1N=CC=N1)C1=CC=CC=C1 | C28H29N9
